US05760032
3-Aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (7.40 g) was dissolved in dichloroethane (100 ml). 2-Chlorophenyl isocyanate (1.2 ml) and triethylamine (4.2 ml) were added under ice-cooling, and the mixture was stirred for 4 hours. Then, the reaction mixture was washed with water and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (developing solvent:chloroform -methanol) to give 4.50 g of N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-N'-(2-chlorophenyl)urea as an oil.

reactant | 3-Aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | 7.40 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | 2-Chlorophenyl isocyanate | 1.2 ml | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-N'-(2-chlorophenyl)urea | 4.50 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)NC2=C(C=CC=C2)Cl)C=CC=C1 | C24H21Cl2N5O2S
